US09108903B2
Triethylamine (177.4 ml, 1.27 mmol) was added to a solution of 2-(4-fluoro-2-methylphenoxy)-5-(trifluoromethyl)benzoic acid (100 mg, 0.32 mmol), HATU (121 mg, 0.32 mmol) and tert-butyl 4-aminobenzoate (61.49 mg, 0.32 mmol) in DMF (1 mL) and the reaction was stirred at room temperature overnight. The reaction was filtered and purified by reverse phase LC-MS using a gradient of acetonitrile in water (10-99%) and HCl as a modifier to yield tert-butyl 4-(2-(4-fluoro-2-methylphenoxy)-5-(trifluoromethyl)benzamido)benzoate (43.8 mg, 28%). ESI-MS m/z calc. 489.16, found 490.3 (M+1)+; Retention time: 2.46 minutes (3 minutes run).

reactant | Triethylamine | 1.27 mmol, 177.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(4-fluoro-2-methylphenoxy)-5-(trifluoromethyl)benzoic acid | 0.32 mmol, 100 mg | FC1=CC(=C(OC2=C(C(=O)O)C=C(C=C2)C(F)(F)F)C=C1)C | C15H10F4O3
reactant | HATU | 0.32 mmol, 121 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | tert-butyl 4-aminobenzoate | 0.32 mmol, 61.49 mg | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-(2-(4-fluoro-2-methylphenoxy)-5-(trifluoromethyl)benzamido)benzoate | 43.8 mg, 28% | FC1=CC(=C(OC2=C(C(=O)NC3=CC=C(C(=O)OC(C)(C)C)C=C3)C=C(C=C2)C(F)(F)F)C=C1)C | C26H23F4NO4
